Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I should have done my research"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ year old single Caucasian man, no formal 
psychiatric history, no prior suicide attempts or psychiatric 
hospitalizations, currently a freshman at ___, medical history 
notable for headaches, who presented to ___ ED after 
disclosing overdose on amitriptyline and other pills to his 
roommate. 
.
He reports he first became depressed in ___ year of high 
school but was able to recover. Symptoms returned in ___ of 
this year after starting college. He endorses depressed mood, 
anhedonia, insomnia, low energy/fatigue, amotivation, weight 
gain due to decreased exercise, daily headaches, feelings of 
guilt, irritability, and social withdrawal and missing classes 
and ROTC sessions. Previously had intermittent passive SI 
however over the past several weeks thoughts became more intense 
and would think about multiple methods. had 3 rehearsals/aborted 
attempts of putting the pills in his hands over the past few 
weeks. Decided to take pills in order to die slowly and 
painfully and set up a plan within 24hrs including writing 
suicide note. Took amitryptiline which had been prescribed for 
migraines then went to sleep. Upon awakening felt ashamed that 
attempt did not succeed. 
.
He denies any symptoms of mania including decreased need for 
sleep, increase in goal-directed activity, impulsivity, 
sexuality, or spending. He denies HI, denies AVH, denies 
paranoia. Denies history of trauma. Denies history of anxiety 
prior to onset of depression. Denies access to weapons, denies 
substance abuse. 
.
Collateral: Per collateral from his father, ___. He states 
he spoke with his son last night and expressed a number of 
statements which he thought showed hope his son wants to live. 
Also reports that this suicide attempt likely precludes son from 
a career in the military and asks when and how this information 
should be shared with son.
 
Past Medical History:
Past Psychiatric History 
- Diagnoses: none
- SA/SIB: see above, no prior history of SIB
- Hospitalizations: none 
- Therapist: none 
- Psychiatrist:  Saw a psychiatrist for initial eval one week 
prior to suicide
attempt. 
- Medication Trials: none 
. 
Past medical history:
- Migraines
- Scoliosis
.
Allergies: None
.
Medications: Amitriptyline 25 mg PO daily
 
Social History:
___
Family History:
Family psychiatric history: 
None
 
Physical Exam:
Vitals: Temp: 98.3 | BP: 128/85 | HR: 98 | RR: 18 | O2 sat: 96% 
.
General: Middle-aged man in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI.
Lungs: CTAB. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Prominent back acne with erythema.
.
Neurological:  
- Station and gait: Narrow-based and normal cadence and transfer
of weight.
- Tone and strength: Grossly intact, spontaneously moves all
extremities.
- Cranial nerves: CN II-XII grossly intact
- Abnormal movements: No tics, tremors, adventitious movement, 
or
abnormal posturing
.
Mental Status:
- Appearance: Blond man appearing stated age, fairly groomed,
wearing hospital gown, in no acute distress.
- Behavior: Sits relatively still. Good eye contact, picks at
eyebrows and skin around chin.
- Attitude: Cooperative, engaged, agreeable to interview
- Mood: "Mixed Feelings"
- Affect: Flat, restricted, appropriate to situation
- Speech: Slowed rate, low volume, monotone, gravely phonation
- Thought process: Linear, coherent, goal-oriented toward
answering questions, no loose associations
- Thought Content: Denies current SI, HI, AVH. Denies delusions,
paranoia.
- Insight/ judgment: Limited/ limited.
.
Cognition:
- Wakefulness/alertness: awake and alert
- Attention: intact to interview
- Orientation: oriented to person, time, place, situation
- Memory: intact to recent and past history
- Fund of knowledge: consistent with education
- Visuospatial: Appears intact, no gross abnormalities
- Language: Native ___ speaker with no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ 09:00AM   GLUCOSE-99 UREA N-13 CREAT-1.1 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-98 TOTAL CO2-26 ANION GAP-14
___ 09:00AM   PROLACTIN-16* TSH-2.3
___ 05:22PM   GLUCOSE-78 UREA N-12 CREAT-1.3* SODIUM-144 
POTASSIUM-4.9 CHLORIDE-106 TOTAL CO2-24 ANION GAP-14
___ 05:22PM   CALCIUM-9.7 PHOSPHATE-4.2 MAGNESIUM-2.1
___ 04:26PM URINE  HOURS-RANDOM
___ 04:26PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:26PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:26PM URINE  RBC-1 WBC-21* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 04:26PM URINE  HYALINE-6*
___ 04:26PM URINE  MUCOUS-OCC*
___ 12:31PM   GLUCOSE-86 UREA N-12 CREAT-1.3* SODIUM-141 
POTASSIUM-5.0 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 12:31PM   estGFR-Using this
___ 12:31PM   CALCIUM-10.2 PHOSPHATE-3.4 MAGNESIUM-2.3*
___ 12:31PM   PROLACTIN-17*
___ 12:31PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:31PM   WBC-6.8 RBC-5.22 HGB-15.6 HCT-46.5 MCV-89 
MCH-29.9 MCHC-33.5 RDW-12.3 RDWSD-40.4
___ 12:31PM   NEUTS-63.4 ___ MONOS-12.9 EOS-2.5 
BASOS-0.6 IM ___ AbsNeut-4.34 AbsLymp-1.38 AbsMono-0.88* 
AbsEos-0.17 AbsBaso-0.04
___ 12:31PM   PLT COUNT-255
 
Brief Hospital Course:
#. LEGAL & SAFETY:
Patient was admitted on a Section 12b and subsequently signed a 
conditional voluntary form the following day on ___, which was 
accepted. He was appropriate for 15 minute checks and green 
sharps given denial of suicidal ideation or thoughts of 
self-harm and maintained his safety throughout his 
hospitalization. Of note, he did not require physical or 
chemical restraints. 
.
#. MAJOR DEPRESSION DISORDER:
Patient presented to the ED for overdose on Amitriptyline and 
ibuprofen with suicidal intent. History notable for worsening 
depressive symptoms in the setting of academic stressors and 
limited psychosocial supports in the area with low mood, NVS, 
and suicidal ideation. Of note, nothing in his history that 
would suggest a history of prior mania or psychosis and he did 
not appear manic or psychotic on my exam. Hospital course was 
relatively unremarkable with patient demonstrating good 
behavioral control with denial of suicidal ideation although 
with ongoing restricted affect. While reticent with restricted 
affect initially, patient began attending more groups when his 
sleep improved. Patient was linear and goal oriented on 
examination, with improving insight and engagement with 
post-discharge safety planning during the course of his 
hospitalization. Patient received Zoloft titrated to 100 mg PO 
daily and hydroxyzine 25 mg PO QID PRN anxiety/insomnia with 
good effect and without complaints of side effects. On day of 
discharge, patient reported he felt ready for discharge and was 
looking forward to returning home with the plan to learn how to 
drive, as he did not have his driver's license. 
.
Family meetings were held with his father, who came up from 
___ to be with his son, and his mother present via 
teleconference. Discussed the history and presentation, likely 
diagnosis of major depressive episode with the family. Family 
were supportive of the patient's care, which the patient found 
reassuring. Ultimately, after discussing the pros and cons, the 
patient elected to return home to ___ with his family and 
agreed to follow up with outpatient providers and ___ partial 
program upon discharge. The family was in agreement with this 
plan. Of note, prior to discharge, the father confirmed there 
were no firearms in the household and I advised the family to 
remove all unnecessary medications from the house. 
. 
#. TENSION HEADACHES:
Patient had experienced frequent headaches in the 6 months 
preceding admission; he was prescribed amitriptyline for an 
initial diagnosis of migraine headache though his symptoms, 
including a continual pressure-like sensation affecting his 
entire head lasting half an hour to several hours without 
sensitivity to light or sound or nausea, seemed more consistent 
with a diagnosis of tension headache. His amitriptyline was 
discontinued in light of his recent suicide attempt, the patient 
instead offered ibuprofen and acetaminophen PRN. Patient's 
headaches remitted with improved sleep without the need for 
analgesics.
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting zoloft, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.  We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
.
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his suicide attempt 
and disappointment at having survived. His static risk factors 
noted at that time include male gender, Caucasian race, age, 
single marital status, chronic headaches, and depression. His 
modifiable risk factors include suicidal ideation with intent 
and plan, hopelessness, social withdrawal, limited social 
supports, limited coping skills, insomnia, lack of purpose, and 
impulsivity. These modifiable risk factors were addressed by 
encouraging patient to participate in groups while inpatient, to 
participate in the partial program in ___, find a job, or 
volunteer, and engage in social interactions.
.
Finally, the patient is being discharged with many protective 
risk factors, including his future-oriented viewpoint, sense of 
responsibility to family, good problem-solving skills, lack of 
suicidal ideation, no history of substance use disorder, no 
history of abuse, no access to firearms, and strong familial 
support.
.
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others.
.
Our Prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO QHS 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO QHS:PRN insomnia 
RX *hydroxyzine HCl 25 mg Take 1 tab by mouth at bedtime Disp 
#*14 Tablet Refills:*0 
2.  Sertraline 100 mg PO DAILY 
RX *sertraline 100 mg Take 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, single episode, severe, without 
psychotic features 
 
Discharge Condition:
VS: T 98.2 | BP 132/84 | HR 74 | RR 16 | SpO2 99% RA 
Appearance: No apparent distress, appears stated age, casually 
groomed, appropriately dressed.
Behavior: Calm, cooperative, appropriate eye contact. 
Mood and Affect: 'Fine' / Euthymic.
Thought Process: Linear, coherent, goal-and future oriented.
Thought Content: Denies current SI, HI, and AVH. No evidence of
delusions or paranoia.
Judgment and Insight: Fair/fair.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___